US07713996B2
4-{[1-(3-Chloro-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid, MS (ISP): m/e=469.0 (M−H), was prepared in analogy to example 57, steps 1 to 6. Step 5 was performed using 3-chloro-benzenesulfonyl chloride, yielding 4-{[1-(3-chloro-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid ethyl ester, which was hydrolyzed in step 6.

reactant | 4-{[1-(3-Chloro-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid | ClC=1C=C(C=CC1)S(=O)(=O)N1CCCC2=CC=C(C=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C23H19ClN2O5S
reactant | 3-chloro-benzenesulfonyl chloride | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 4-{[1-(3-chloro-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(=O)C1=CC=C2CCCN(C2=C1)S(=O)(=O)C1=CC(=CC=C1)Cl)=O | C25H23ClN2O5S
